US08106043B2
N-(4-(2-(Dimethylamino)ethyl)-3,4-dihydro-2H-benzo[b][1,4]oxazin-7-yl)thiophene-2-carboximidamide (6):
A suspension of N,N-dimethyl-2-(7-nitro-2H-benzo[b][1,4]oxazin-4(3H)-yl)ethanamine (210 mg, 0.836 mmol) and Pd—C (10% wt, 89 mg, 0.084 mmol) in dry EtOH (15 mL) was purged with hydrogen gas. The reaction was stirred at room temperature for 3 hours under hydrogen atmosphere (balloon pressure). The reaction mixture was then filtered through a Celite pad and washed with EtOH (15 mL). The light purple filtrate was concentrated to give crude 4-(2-(dimethylamino)ethyl)-3,4-dihydro-2H-benzo[b][1,4]oxazin-7-amine. A solution of this crude 4-(2-(dimethylamino)ethyl)-3,4-dihydro-2H-benzo[b][1,4]oxazin-7-amine (185 mg, 0.836 mmol) in dry EtOH (10 mL) was treated with methyl thiophene-2-carbimidothioate hydroiodide (477 mg, 1.672 mmol) and stirred overnight at room temperature. The reaction was diluted with saturated NaHCO3 solution (50 mL) and the product was extracted into CH2Cl2 (3×25 mL). The combined organic layers were dried (Na2SO4) and concentrated. The residue was subjected to flash chromatography on silica gel using 2:98 MeOH:CH2Cl2, followed by 5:95 (2M NH3 in MeOH):CH2Cl2, to give a yellow solid (150 mg, 54%). 1H-NMR (DMSO-d6) δ 7.69 (dd, J=3.6, 0.9 Hz, 1H), 7.56 (dd, J=5.1, 0.9 Hz, 1H), 7.07 (dd, J=5.1, 3.9 Hz, 1H), 6.64 (d, J=8.4 Hz, 1H), 6.35-6.26 (m, 4H), 4.14 (t, J=3.9 Hz, 2H), 3.33-3.29 (m, 4H), 2.42 (t, J=6.9 Hz, 2H), 2.19 (s, 6H); ESI-MS (m/z, %): 331 (MH+, 100), 260 (25); ESI-HRMS calculated for C17H23N4OS (MH+): 331.1587, Observed: 331.1594; HPLC purity: 99.0% by area.

reactant | 4-(2-(dimethylamino)ethyl)-3,4-dihydro-2H-benzo[b][1,4]oxazin-7-amine | 0.836 mmol, 185 mg | CN(CCN1C2=C(OCC1)C=C(C=C2)N)C | C12H19N3O
reactant | methyl thiophene-2-carbimidothioate hydroiodide | 1.672 mmol, 477 mg | I.S1C(=CC=C1)C(=N)SC
solvent | EtOH | 10 mL | CCO | C2H6O
solvent | NaHCO3 | 50 mL | C(=O)(O)[O-].[Na+]
product | N-(4-(2-(Dimethylamino)ethyl)-3,4-dihydro-2H-benzo[b][1,4]oxazin-7-yl)thiophene-2-carboximidamide | 150 mg, 54% | CN(CCN1C2=C(OCC1)C=C(C=C2)NC(=N)C=2SC=CC2)C | C17H22N4OS
